US06242493B1
Step 1: Methyl (E)-3-(2-methylphenyl)-2-propenoate
To 2-methylcinnamic acid (100 g; 617 mmol) in 1.2L of DMF was added DBU (112.6 g; 740 mmol) and 15 min later methyl iodide (131.3 g; 925 mmol) and left overnight. The solution was diluted in ether and washed with HCl (10%), H2O and brine. The solvent was removed to give 106.8 g of the title compound.

reactant | 2-methylcinnamic acid | 617 mmol, 100 g | CC1=C(C=CC(=O)O)C=CC=C1 | C10H10O2
reactant | DBU | 740 mmol, 112.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl iodide | 925 mmol, 131.3 g | CI | CH3I
solvent | DMF | 1.2L | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Methyl (E)-3-(2-methylphenyl)-2-propenoate | 106.8 g | CC1=C(C=CC=C1)/C=C/C(=O)OC | C11H12O2
